US07351719B2
171) N-(3-chloro-4-diethylaminomethyl-phenyl)-2-(2-chloro-4-trifluoromethyl-phenoxy)-acetamide
Prepared analogously to Example 170 starting from N-(3-chloro-4-chloromethyl-phenyl)-2-(2-chloro-4-trifluoromethyl-phenoxy)-acetamide (Z32b) and diethylamine. The crude product was recrystallised from petroleum ether.

reactant | N-(3-chloro-4-chloromethyl-phenyl)-2-(2-chloro-4-trifluoromethyl-phenoxy)-acetamide | ClC=1C=C(C=CC1CCl)NC(COC1=C(C=C(C=C1)C(F)(F)F)Cl)=O | C16H11Cl3F3NO2
reactant | diethylamine | C(C)NCC | C4H11N
product | N-(3-chloro-4-diethylaminomethyl-phenyl)-2-(2-chloro-4-trifluoromethyl-phenoxy)-acetamide | ClC=1C=C(C=CC1CN(CC)CC)NC(COC1=C(C=C(C=C1)C(F)(F)F)Cl)=O | C20H21Cl2F3N2O2
